* source EEG AMPLIFIER
.EXTERNAL OUTPUT Output
X_U1         N00961 0 N01667 0 0 N00208 N01546 N00954 INA126
X_U2         N00208 N00328 N01546 V- N00346 LF356
X_U3         N00346 N00436 N01546 0 N00452 LF356
X_U4         N00669 N00577 N01546 0 OUTPUT LF356
R_R1         N00961 N00954  5.3k TC=0,0 
R_R2         0 N00328  1k TC=0,0 
R_R3         N00328 N00346  100k TC=0,0 
R_R4         N00436 N00452  100k TC=0,0 
R_R5         0 N00436  1k TC=0,0 
R_R6         N00452 N00641  1k TC=0,0 
R_R7         N00641 N00669  1k TC=0,0 
R_R8         0 N00577  1k TC=0,0 
R_R9         N00577 OUTPUT  1k TC=0,0 
C_C1         N00641 OUTPUT  1n  TC=0,0 
C_C2         0 N00669  1n  TC=0,0 
V_V1         N01546 0 5Vdc
V_V2         N01667 0 DC 0Vdc AC 1Vac 
